* source EE3114 HWK0 RESISTOR DIVIDER
R_R1         N00172 N00179  2k TC=0,0 
R_R2         0 N00179  {Rval} TC=0,0 
V_V1         N00172 0  
+SIN 0 1mV 1k 0 0 0
.PARAM  rval=1k
