* source HW03
X_Q1         N00118 N00111 0 0 awbvn2222 PARAMS:                               
+                 
V_VG         N00111 0 DC 3v  
V_V1         N00118 0 DC 5v  
